### PR TITLE
[Merged by Bors] - feat: port Algebra.BigOperators.Fin

### PR DESCRIPTION
**Pull request by joneugster**
---

See [Zulip question](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/to_additive.20type.20mismatch) about `to_additive`.

- [x] depends on: #1847 
- [ ] depends on: -- #1861 not really

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1847
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1847~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -0,0 +1,383 @@
...
+--     simp only [mul_inv_rev, Fin.coe_eq_castSucc, Fin.succ_mk, Fin.castSucc_mk, smul_eq_mul,
+--       Pi.smul_apply] at hi ⊢
+--     rw [← Fin.succ_mk _ _ (lt_trans (Nat.lt_succ_self _) hn), ← Fin.succ_mk]
+--     simp only [partialProd_succ, mul_inv_rev, Fin.castSucc_mk]
+--     assoc_rw [hi, inv_mul_cancel_left]
+@[to_additive]
+theorem partialProd_right_inv {G : Type _} [Group G] (g : G) (f : Fin n → G) (i : Fin n) :
+    ((g • partialProd f) (Fin.castLt i (Nat.lt_succ_of_lt i.2)))⁻¹ *
+    (g • partialProd f) i.succ = f i := by
+  rcases i with ⟨i, hn⟩
```
Comment (joneugster) [inline Mathlib/Algebra/BigOperators/Fin.lean:274]: This theorem was a nightmare to prove. Lots of things that should be def-eq aren't recoginsed as such by `rw` (e.g. `n + 1` vs `n.succ`). Moreover `assoc_rw` would be really helpful.

Could somebody look at the proof and decide if there is anything that could be done to avoid non-terminal `simp` and all the `change`?

Comment (joneugster) [reply Mathlib/Algebra/BigOperators/Fin.lean:274]: Also the statement has changed. In Lean3 it was `↑i` instead of `(Fin.castLt i (Nat.lt_succ_of_lt i.2))`. I changed that because Lean4 got the conversion wrong, could that be fixed too?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -0,0 +1,383 @@
...
+theorem prod_univ_succ [CommMonoid β] {n : ℕ} (f : Fin (n + 1) → β) :
+    (∏ i, f i) = f 0 * ∏ i : Fin n, f i.succ :=
+  prod_univ_succAbove f 0
+#align fin.prod_univ_succ Fin.prod_univ_succ
+#align fin.sum_univ_succ Fin.sum_univ_succ
+
+/-- A product of a function `f : fin (n + 1) → β` over all `fin (n + 1)`
+is the product of `f (fin.last n)` plus the remaining product -/
+@[to_additive "A sum of a function `f : fin (n + 1) → β` over all `fin (n + 1)` is the sum of
+`f (fin.last n)` plus the remaining sum"]
```
Comment (jcommelin) [inline Mathlib/Algebra/BigOperators/Fin.lean:91]:
```suggestion
/-- A product of a function `f : Fin 0 → β` is `1` because `Fin 0` is empty -/
@[to_additive "A sum of a function `f : Fin 0 → β` is `0` because `Fin 0` is empty"]
theorem prod_univ_zero [CommMonoid β] (f : Fin 0 → β) : (∏ i, f i) = 1 :=
  rfl
#align fin.prod_univ_zero Fin.prod_univ_zero
#align fin.sum_univ_zero Fin.sum_univ_zero

/-- A product of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)`
is the product of `f x`, for some `x : Fin (n + 1)` times the remaining product -/
@[to_additive "A sum of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)` is the sum of
`f x`, for some `x : Fin (n + 1)` plus the remaining product"]
theorem prod_univ_succAbove [CommMonoid β] {n : ℕ} (f : Fin (n + 1) → β) (x : Fin (n + 1)) :
    (∏ i, f i) = f x * ∏ i : Fin n, f (x.succAbove i) := by
  rw [univ_succAbove, prod_cons, Finset.prod_map]
#align fin.prod_univ_succ_above Fin.prod_univ_succAbove
#align fin.sum_univ_succ_above Fin.sum_univ_succAbove

/-- A product of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)`
is the product of `f 0` plus the remaining product -/
@[to_additive "A sum of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)` is the sum of
`f 0` plus the remaining product"]
theorem prod_univ_succ [CommMonoid β] {n : ℕ} (f : Fin (n + 1) → β) :
    (∏ i, f i) = f 0 * ∏ i : Fin n, f i.succ :=
  prod_univ_succAbove f 0
#align fin.prod_univ_succ Fin.prod_univ_succ
#align fin.sum_univ_succ Fin.sum_univ_succ

/-- A product of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)`
is the product of `f (Fin.last n)` plus the remaining product -/
@[to_additive "A sum of a function `f : Fin (n + 1) → β` over all `Fin (n + 1)` is the sum of
`f (Fin.last n)` plus the remaining sum"]
```

File: Mathlib/Algebra/BigOperators/Fin.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Algebra/BigOperators/Fin.lean:274]: I see, Lean 4 coerces via the path `Fin n → ℕ → Fin (n + 1)` which results in different defeqs than `castLt`. Although I can't actually find where the coercion comes from in mathlib 3...

Comment (Vierkantor) [reply Mathlib/Algebra/BigOperators/Fin.lean:274]: Nope, turns out that Lean 3 finds the same coercion (`@coe_trans (fin n) ℕ (fin (n + 1)) nat.cast_coe (fin.fin_to_nat n)`). So I think it's best to keep the statement with a coercion.

Comment (jcommelin) [reply Mathlib/Algebra/BigOperators/Fin.lean:274]: Thanks for writing the extensive porting note.
Let's merge this PR now. We can revisit this issue later.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1847~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!
